US08022062B2
3-tert-Butoxycarbonyl-7-chloro-6-(1-cyano-ethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Add potassium hydroxide (10.8 g, 192 mmol) to a solution of 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine (3 g, 7.8 mmol) in degassed methanol (150 mL) under a nitrogen atmosphere. Heat the mixture at 80° C. for 6 h. Cool the mixture to ambient temperature, then concentrate in vacuo to an oil. Dissolve the oil in EtOAc (50 mL), wash with aqueous saturated ammonium chloride (30 mL). Separate the organic layer and extract the aqueous layer with EtOAc (3×50 mL). Dry the combined organic extracts over Na2SO4, filter and concentrate in vacuo to an oil (2.4 g). Dissolve the oil in anhydrous DMF (50 mL). Slowly add sodium hydride (470 mg, 11.7 mmol) portionwise over 5 min followed by 2-bromopropionitrile (1 mL, 11.7 mmol). Stir the mixture under nitrogen at ambient temperature for 16 h. Dilute the mixture slowly with EtOAc (100 mL) and wash with cold aqueous saturated ammonium chloride (50 mL). Separate the organic layer and extract the aqueous-layer with EtOAc (3×50 mL). Combine the organic extracts and concentrate in vacuo. Purify the crude mixture by chromatography on silica gel eluting with hexane/EtOAc (19:1 to 3:1 gradient) to obtain the desired intermediate (2.5 g, 89%). MS (ES+) m/z: 267.2 (M-Boc)+.

reactant | potassium hydroxide | 192 mmol, 10.8 g | [OH-].[K+]
reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 7.8 mmol, 3 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | sodium hydride | 11.7 mmol, 470 mg | [H-].[Na+]
reactant | 2-bromopropionitrile | 11.7 mmol, 1 mL | BrC(C#N)C | C3H4BrN
reactant | methanol | 150 mL | CO | CH4O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 3-tert-Butoxycarbonyl-7-chloro-6-(1-cyano-ethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 2.5 g, 89% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(C)C#N | C18H23ClN2O2S
